US07153963B2
Process 1 Synthesis of 4-nitrophenylalanine methylester hydrochloride
1.49 ml of thionylchloride and 25 ml of methanol were mixed, cooled by dry-ice-acetonitrile bath and 2 g of Boc-Phe(4-NO2)—OH was added thereto. After stirring it for 1 hour and removing the bath, the solution was warmed up till room temperature and further stirred for 2.5 hours. The reaction solvent was concentrated under reduced pressure to obtain 1.83 g of the intended compound as white powder.

reactant | thionylchloride | 1.49 ml | S(=O)(Cl)Cl | Cl2OS
reactant | Boc-Phe(4-NO2)—OH | 2 g | N([C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O)C(=O)OC(C)(C)C | C14H18N2O6
reactant | methanol | 25 ml | CO | CH4O
product | 4-nitrophenylalanine methylester hydrochloride | 1.83 g | Cl.COC([C@@H](N)CC1=CC=C(C=C1)[N+](=O)[O-])=O | InChI=1S/C10H12N2O4.ClH/c1-16-10(13)9(11)6-7-2-4-8(5-3-7)12(14)15;/h2-5,9H,6,11H2,1H3;1H/t9-;/m0./s1
